US05922737
Combine (1H-benzimidazol-2-yl)(1-benzylpiperidin-4-yl)amine (0.5 g, 1.6 mmol) and tetrahydrofuran (10 mL). Cool to -78° C. Add dropwise, a solution of potassium bis(trimethylsilyl)amide (3.6 mL, 0.5M in toluene, 1.8 mmol). After 30 minutes, add 2-chloroethyl ethyl ether (0.2 g, 1.8 mmol). Warm to ambient temperature and heat to reflux. After 4 hours, add 2-chloroethyl ethyl ether (0.2 g, 1.8 mmol) and tetrabutylammonium bromide (0.1 g). After 12 hours, cool to ambient temperature and add water. Separate the organic layer and extract the aqueous layer with dichloromethane. Dry the combined organic layers over Na2SO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 2% triethylamine/10% methanol/ethyl acetate to give (1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)(1-benzylpiperidin-4-yl)amine: Rf =0.55 (2% triethylamine/10% methanol/ethyl acetate).

reactant | (1H-benzimidazol-2-yl)(1-benzylpiperidin-4-yl)amine | 1.6 mmol, 0.5 g | N1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CC2=CC=CC=C2 | C19H22N4
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | potassium bis(trimethylsilyl)amide | 1.8 mmol, 0.5M, 3.6 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 2-chloroethyl ethyl ether | 1.8 mmol, 0.2 g | C(C)OCCCl | C4H9ClO
reactant | 2-chloroethyl ethyl ether | 1.8 mmol, 0.2 g | C(C)OCCCl | C4H9ClO
catalyst | tetrabutylammonium bromide | 0.1 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | (1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)(1-benzylpiperidin-4-yl)amine | C(C)OCCN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CC2=CC=CC=C2 | C23H30N4O
